US08314088B2
3-(2-methyl-1H-imidazol-1-yl)-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepine hydrochloride
To a solution of 8-benzyl-3-(2-methyl-1H-imidazol-1-yl)-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepine (18 mg) in methanol (2.5 mL) was added 20% Pd(OH)2/C (10 mg), and the mixture was stirred under a hydrogen atmosphere at 50° C. for 5 hr. The reaction mixture was filtered, and the filtrate was concentrated. To a solution of the obtained crude product in methanol (0.3 mL) was added 0.1 N hydrochloric acid (410 μL), and the mixture was stirred for 30 min. The reaction mixture was concentrated, and the obtained crystals were purified by recrystallization (methanol-ethyl acetate) to give the title compound (6 mg, 61%) as a pale-yellow powder.

reactant | 8-benzyl-3-(2-methyl-1H-imidazol-1-yl)-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepine | 18 mg | C(C1=CC=CC=C1)N1CCOC2=C(C1)N=CC(=N2)N2C(=NC=C2)C | C18H19N5O
reactant | hydrochloric acid | 0.1 N, 410 μL | Cl | ClH
solvent | methanol | 2.5 mL | CO | CH4O
catalyst | Pd(OH)2/C | 10 mg | [OH-].[OH-].[Pd+2]
product | 3-(2-methyl-1H-imidazol-1-yl)-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepine hydrochloride | 6 mg, 61% | Cl.CC=1N(C=CN1)C1=NC2=C(CNCCO2)N=C1 | InChI=1S/C11H13N5O.ClH/c1-8-13-2-4-16(8)10-7-14-9-6-12-3-5-17-11(9)15-10;/h2,4,7,12H,3,5-6H2,1H3;1H
